US08426604B2
2-[(2,3-Dihydroxy-propyl)-methyl-amino]-5-[1-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-thiazol-4-one was prepared from 5-[1-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-methylsulfanyl-thiazol-4-one and 3-Methylamino-propane-1,2-diol following General Procedure C.

reactant | 5-[1-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-methylsulfanyl-thiazol-4-one | CS(=O)(=O)C1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)SC)=O)C=C1)C(F)(F)F | C21H16F3N3O3S3
reactant | 3-Methylamino-propane-1,2-diol | CNCC(CO)O | C4H11NO2
product | 2-[(2,3-Dihydroxy-propyl)-methyl-amino]-5-[1-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-thiazol-4-one | OC(CN(C=1SC(C(N1)=O)=CC=1C=C2C=NN(C2=CC1)CC1=C(C=C(C=C1)S(=O)(=O)C)C(F)(F)F)C)CO | C24H23F3N4O5S2
